US04888043
A stirred solution of 2-propionyl-3-hydroxy-5-[3-acetyl-5-nitro-2,4,6-trimethylphenyl]cyclohex-2-en-1-one (4.2 g, 11.3 mmol) and sodium methoxide (0.61 g, 11.3 mmol) in methanol (80 ml) was hydrogenated at atmospheric pressure over 10% palladium on charcoal (0.3 g). After uptake of hydrogen ceased the solution was neutralized and the methanol was removed under reduced pressure. The residue was partitioned between water and methylene chloride. The organic layer was washed with water, dried over anhydrous sodium sulfate and evaporated under reduced pressure. The crude product was purified by chromatography on silica gel (elution with an increasing gradient of methanol in methylene chloride) to yield 2-propionyl-3-hydroxy-5-(3-acetyl-5-amino-2,4,6-trimethylphenyl)cyclohex-2-en-1-one as a red brown solid (3.28 g, 85%) the compound was characterized by proton magnetic resonance spectroscopy (CDCl3, δ in ppm): 1.18 (3H,t ; 2.0 3H,s); 2.12 (3H,s); 2.18 (3H,s ; 2.40 3H,s); 2.4-4.1 (5H,m); 3.07 (2H,q); 3.6 (2H, brs); 18.05 (1H,brs).

reactant | 2-propionyl-3-hydroxy-5-[3-acetyl-5-nitro-2,4,6-trimethylphenyl]cyclohex-2-en-1-one | 11.3 mmol, 4.2 g | C(CC)(=O)C=1C(CC(CC1O)C1=C(C(=C(C(=C1C)[N+](=O)[O-])C)C(C)=O)C)=O | C20H23NO6
reactant | sodium methoxide | 11.3 mmol, 0.61 g | C[O-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | methanol | 80 ml | CO | CH4O
catalyst | palladium on charcoal | 0.3 g | [Pd] | Pd
product | 2-propionyl-3-hydroxy-5-(3-acetyl-5-amino-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | 3.28 g, 85% | C(CC)(=O)C=1C(CC(CC1O)C1=C(C(=C(C(=C1C)N)C)C(C)=O)C)=O | C20H25NO4
